US07981903B2
To the solution of 2-chloro-4-fluoro-3-methyl-1-nitrobenzene (12.5 g, 64.8 mmol, 1.2 equiv.) and isopropylpiperazine (10.8 g, 53.98 mmol, 1 equiv.) in 90 mL of anhydrous DMSO was added powdered K2CO3 (37 g, 269 mmol, 5 equiv.). The mixture was stirred at 40-50° C. overnight before it was poured into 200 mL of ice-water. The precipitates were collected and purified via chromatography on SiO2 to afford 1-(3-chloro-2-methyl-4-nitrophenyl)-4-(1-methylethyl)piperazine as a yellow solid (12.7 g, 79% Yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.95-1.05 (d, J=6.53 Hz, 6H), 2.31 (s, 3H), 2.60-2.72 (m, 5H), 2.89-2.95 (m, 4H), 6.87 (d, J=8 Hz, 1H), 7.62 (d, J=8 Hz, 1H).

reactant | 2-chloro-4-fluoro-3-methyl-1-nitrobenzene | 64.8 mmol, 12.5 g, 1.2 equiv. | ClC1=C(C=CC(=C1C)F)[N+](=O)[O-] | C7H5ClFNO2
reactant | isopropylpiperazine | 53.98 mmol, 10.8 g, 1 equiv. | C(C)(C)N1CCNCC1 | C7H16N2
reactant | K2CO3 | 269 mmol, 37 g, 5 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 90 mL | CS(=O)C | C2H6OS
product | 1-(3-chloro-2-methyl-4-nitrophenyl)-4-(1-methylethyl)piperazine | 12.7 g, 79% Yield | ClC=1C(=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(C)C)C | C14H20ClN3O2
